US04588732
A solution of 0.34 g of 5-(p-bromophenyl)imidazo[1,5-a]pyridine, 2.7 mg of palladium acetate, 7.5 mg of tri-o-tolyphosphine and 0.22 g methyl methacrylate in 3 ml of triethylamine is refluxed for 7 days, diluted with 50 ml of methylene chloride and washed with water. The methylene chloride is evaporated and the residue is taken up in 50 ml ether, filtered and washed with 2×20 ml of ice-cold 0.5N hydrochloric acid. The aqueous phase is adjusted to pH=8 and is extracted with methylene chloride. The methylene chloride extract is dried over magnesium sulfate and evaporated. Preparative thin layer chromatography (silica gel, ether) yields 5-[p-(2-carbomethoxyprop-2-enyl)phenyl]imidazo[1,5-a]pyridine; Rf=0.37; NMR: (CDCl3) 5.62 (s, 1H), 6.32 (s, 1H); IR (CH2Cl2) 1720 cm-1.

reactant | 5-(p-bromophenyl)imidazo[1,5-a]pyridine | 0.34 g | BrC1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C13H9BrN2
reactant | tri-o-tolyphosphine | 7.5 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
reactant | methyl methacrylate | 0.22 g | C(C(=C)C)(=O)OC | C5H8O2
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 2.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-[p-(2-carbomethoxyprop-2-enyl)phenyl]imidazo[1,5-a]pyridine | C(=O)(OC)C(CC1=CC=C(C=C1)C1=CC=CC=2N1C=NC2)=C | C18H16N2O2
